US03998843
(2) A solution of cis-2-(3-methoxyphenyl)-1-pyrrolidinocyclohexane (2.5g) in dichloromethane was added cautiously to an ice-cold solution of boron tribromide (3 ml) in dichloromethane (15 ml). The mixture was set aside at room temperature for 18 hours and was hydrolysed with water. The aqueous layer was collected, made alkaline with ammonia and extracted with ether. The ether extracts were washed, dried (Na2SO4) and evaporated. The residue was crystallised from aqueous ethanol to give cis-2-(3-hydroxyphenyl)-1-pyrrolidinocyclohexane (2.0g), m.p. 125° to 127° C, identical to (b)(1) above.

reactant | cis-2-(3-methoxyphenyl)-1-pyrrolidinocyclohexane | 2.5g | COC=1C=C(C=CC1)[C@@H]1[C@@H](CCCC1)N1CCCC1 | C17H25NO
reactant | boron tribromide | 3 ml | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | cis-2-(3-hydroxyphenyl)-1-pyrrolidinocyclohexane | 2.0g | OC=1C=C(C=CC1)[C@@H]1[C@@H](CCCC1)N1CCCC1 | C16H23NO
